US06537943B1
Synthesis of nickelocene
29.4 g of nickel powder are suspended in 400 ml of dimethoxyethane and admixed while stirring with 27.3 ml of bromine. The mixture is stirred for 1 hour and the solvent is removed in an oil pump vacuum. The brown residue obtained is taken up in 400 ml of diethylamine while cooling in ice and admixed with 98 ml of freshly distilled cyclopentadiene. The suspension becomes green. After stirring for 12 hours at room temperature, residual solvent is removed in an oil pump vacuum and the product is isolated by Soxhlet extraction with 700 ml of petroleum ether.

reactant | nickel | 29.4 g | [Ni] | Ni
reactant | bromine | 27.3 ml | BrBr | Br2
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
solvent | dimethoxyethane | 400 ml | C(OC)COC | C4H10O2
solvent | diethylamine | 400 ml | C(C)NCC | C4H11N
product | nickelocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Ni+2] | InChI=1S/2C5H5.Ni/c2*1-2-4-5-3-1;/h2*1-5H;/q2*-1;+2
